US04840893
1,1'-dimethylferrocene;
acetic acid ferrocene; hydroxyethylferrocene; ferrocene;

reactant | acetic acid ferrocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2].C(C)(=O)O
reactant | hydroxyethylferrocene | OCC[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | ferrocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
product | 1,1'-dimethylferrocene | C[C-]1C=CC=C1.[C-]1(C=CC=C1)C.[Fe+2] | InChI=1S/2C6H7.Fe/c2*1-6-4-2-3-5-6;/h2*2-5H,1H3;/q2*-1;+2
